US09035071B2
A solution of [1-(5-Bromo-2-hydroxy-benzyl)-5-methyl-1H-pyrazol-4-yl]-acetic acid ethyl ester, 2, (0.18 g g 0.51 mmol), triphenylphosphine (0.26 g, 1.02 mmol), di-tert-butylazodicarboxylate (0.23 g, 1.02 mmol) and 2-ethylbutan-1-ol (0.116 ml, 1.02 mmol) in a mixture of THF (1 mL) and toluene (2 ml) was at 120° C. on microwave for 20 min. The volatiles were removed in vacuo. The crude product was purified on silica to yield {1-[5-bromo-2-(2-ethyl-butoxy)-benzyl]-5-methyl-1H-pyrazol-4-yl}-acetic acid ethyl ester, 3.

reactant | [1-(5-Bromo-2-hydroxy-benzyl)-5-methyl-1H-pyrazol-4-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=NN(C1C)CC1=C(C=CC(=C1)Br)O)=O | C15H17BrN2O3
reactant | triphenylphosphine | 0.51 mmol, 0.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | di-tert-butylazodicarboxylate | 1.02 mmol, 0.23 g | CC(C)(C)OC(=O)/N=N/C(=O)OC(C)(C)C | C10H18N2O4
reactant | 2-ethylbutan-1-ol | 1.02 mmol, 0.116 ml | C(C)C(CO)CC | C6H14O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | {1-[5-bromo-2-(2-ethyl-butoxy)-benzyl]-5-methyl-1H-pyrazol-4-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=NN(C1C)CC1=C(C=CC(=C1)Br)OCC(CC)CC)=O | C21H29BrN2O3
